US07842820B2
E2 [2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-[2-(1H-indol-3yl)-ethyl]-amine
Tryptamine (3.34 g, 20.85 mmol) and t-butyldimethylsilyloxylacetaldehyde (2.44 g, 13.99 mmol) is dissolved in dichloromethane (200 ml) for 10 minutes. The mixture is cooled to 0° C. and it is added sodium triacetoxyborohydride (5.38 g, 25.38 mmol). The mixture is warmed slowly to room temperature and stirred for 18 hours. Then water is added and the mixture is extracted with dichloromethane. The organic phase is dried over sodium sulfate, filtered and evaporated. The crude product is purified by a silica gel flash chromatograph using dichloromethane-methanol eluent.

reactant | Tryptamine | 20.85 mmol, 3.34 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | t-butyldimethylsilyloxylacetaldehyde | 13.99 mmol, 2.44 g | [Si](C)(C)(C(C)(C)C)OCC=O | C8H18O2Si
reactant | sodium triacetoxyborohydride | 25.38 mmol, 5.38 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | water | O | H2O
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | [2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-[2-(1H-indol-3yl)-ethyl]-amine | C(C)(C)(C)[Si](OCCNCCC1=CNC2=CC=CC=C12)(C)C | C18H30N2OSi
